US06518273B1
1-{3- [5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-indol-3-yl]-1-oxopropyl}-4-(phenylmethyl)piperazine
1,1-Carbonyl diimidazole (47 mg, 0.29 mmol) was added to a solution of 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole-3-propanoic acid (Description 12, 100 mg, 0.29 mmol) in tetrahydrofuran (4 mL) and the mixture was heated under reflux for 2 h. The mixture was cooled and 1-(phenylmethyl)piperazine (48 mg, 0.27 mmol) was added. The mixture was stirred at room temperature overnight and the solvent was evaporated under reduced pressure. Water (4 mL) was added and the mixture was stirred at 80° C. for 2 h. The mixture was cooled, the water was decanted and the residue was dissolved in dichloromethane. Using a Bond Elut™ cartridge to separate the layers the solution was washed with hydrochloric acid (1M), and aqueous sodium hydroxide (2M). The organic fraction was evaporated under reduced pressure to a small volume and filtered through a plug of silica on a Bond Elut™ cartridge, eluting with hexane/EtOAc (85:15 increasing to 70:30), to give the title compound as a colorless solid (95 mg, 65%). 1H NMR (360 MHz, CDCl3) δ2.10-2.13 (2H, m), 2.25-2.28 (2H, m), 2.40-2.43 (2H, m), 2.89-2.93 (2H, m), 3.13-3.16 (2H, m), 3.78 (2H, s), 3.46 (3H, s), 3.48-3.51 (2H, m), 7.10-7.26 (9H, m), 7.40 (2H, d, J 8.3 Hz), and 7.50 (1H, s). m/z (ES+) 506, 508 (M+1).

reactant | 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole-3-propanoic acid | 0.29 mmol, 100 mg | ClC=1C=C2C(=C(N(C2=CC1)C)C1=CC=C(C=C1)Cl)CCC(=O)O | C18H15Cl2NO2
reactant | 1-(phenylmethyl)piperazine | 0.27 mmol, 48 mg | C1(=CC=CC=C1)CN1CCNCC1 | C11H16N2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-{3- [5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-indol-3-yl]-1-oxopropyl}-4-(phenylmethyl)piperazine | 95 mg, 65% | ClC=1C=C2C(=C(N(C2=CC1)C)C1=CC=C(C=C1)Cl)CCC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C29H29Cl2N3O
